US07279497B2
Preparation of (2R,3R,4S)-3,4-dihydro-2-dimethoxymethyl-3-hydroxy-2-methyl-6-nitro-4-[N-(2-methoxyphenyl)-N-(1H-imidazol-2-ylmethyl)amino]-2H-1-benzopyran
The title compound (580 mg, 67%) was prepared using (2R,3R,4R)-3,4-dihydro-2-dimethoxymethyl-3,4-epoxy-2-methyl-6-nitro-2H-1-benzopyran (500 mg, 1.78 mmol) and 2-methoxyphenyl-1H-imidazol-2-ylmethylamine (231 mg, 1.78 mmol), according to the same procedure used for the preparation of example 1 above.

reactant | (2R,3R,4R)-3,4-dihydro-2-dimethoxymethyl-3,4-epoxy-2-methyl-6-nitro-2H-1-benzopyran | 1.78 mmol, 500 mg | COC([C@@]1(OC2=C([C@@H]3[C@H]1O3)C=C(C=C2)[N+](=O)[O-])C)OC | C13H15NO6
reactant | 2-methoxyphenyl-1H-imidazol-2-ylmethylamine | 1.78 mmol, 231 mg | COC1=C(C=CC=C1)NCC=1NC=CN1 | C11H13N3O
product | (2R,3R,4S)-3,4-dihydro-2-dimethoxymethyl-3-hydroxy-2-methyl-6-nitro-4-[N-(2-methoxyphenyl)-N-(1H-imidazol-2-ylmethyl)amino]-2H-1-benzopyran | 580 mg, 67% | COC([C@@]1(OC2=C([C@@H]([C@H]1O)N(CC=1NC=CN1)C1=C(C=CC=C1)OC)C=C(C=C2)[N+](=O)[O-])C)OC | C24H28N4O7
